US08198279B2
1-(3-Tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-fluoro-4-(3-(4-methylpiperazin-1-yl)pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-053)
Method F3 was used with 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole and 2-fluoro-4-(3-(4-methylpiperazin-1-yl)pyrido[3,2-b]pyrazin-8-yloxy)aniline to give the title compound as a cream-colored solid. Yield: 44 mg (77%).

reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
reactant | 2-fluoro-4-(3-(4-methylpiperazin-1-yl)pyrido[3,2-b]pyrazin-8-yloxy)aniline | FC1=C(N)C=CC(=C1)OC1=CC=NC=2C1=NC=C(N2)N2CCN(CC2)C | C18H19FN6O
product | 1-(3-Tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-fluoro-4-(3-(4-methylpiperazin-1-yl)pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=NC(=CN=C21)N2CCN(CC2)C)F)C2=CC=CC=C2 | C32H34FN9O2
